US08623889B2
5-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-N,4-dimethylpicolinamide
A mixture of N-(7-(6-chloro-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide (50 mg, 0.1 mmol), palladium acetate (2 mg, 0.007 mmol), 1,3-bis(dicyclohexylphosphino)propane bis(tetrafluoroborate) (9 mg, 0.014 mmol), potassium carbonate (29 mg, 0.21 mmol), methylamine (2.0M solution in tetrahydrofuran, 0.74 mL), and N,N-dimethylformamide (1 mL) was purged with nitrogen and evacuated (3×), flushed with carbon monoxide and evacuated (2×), and then left under a carbon monoxide balloon and heated at 100° C. for 2 hours. The cooled reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (100 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by reverse phase HPLC (5-85% acetonitrile in water with 0.1% formic acid over 14 min) to afford the title compound as an off-white solid (25 mg, 50%). 1H NMR (400 MHz, DMSO) δ 10.94 (s, 1H), 9.21 (s, 1H), 8.79 (m, 1H), 8.54 (s, 1H), 8.52 (s, 1H), 8.14 (s, 1H), 8.03 (s, 1H), 7.98 (d, J=8.6 Hz, 1H), 7.78 (d, J=8.7 Hz, 1H), 2.85 (d, J=4.8 Hz, 3H), 2.41 (s, 3H), 2.14-2.03 (m, 1H), 0.92-0.78 (m, 4H). LCMS (Method E): RT=4.054 min, M+H+=361.1.

reactant | N-(7-(6-chloro-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.1 mmol, 50 mg | ClC1=CC(=C(C=N1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C19H16ClN3O
reactant | 1,3-bis(dicyclohexylphosphino)propane bis(tetrafluoroborate) | 0.014 mmol, 9 mg | F[B-](F)(F)F.F[B-](F)(F)F.C1(CCCCC1)P(CCCP(C1CCCCC1)C1CCCCC1)C1CCCCC1
reactant | potassium carbonate | 0.21 mmol, 29 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methylamine | 2.0M, 0.74 mL | CN | CH5N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.007 mmol, 2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 5-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-N,4-dimethylpicolinamide | 25 mg, 50% | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C(=CC(=NC1)C(=O)NC)C | C21H20N4O2
